Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
PCI ___
 
History of Present Illness:
___ yo M with history of BPH presented with anterior STEMI found 
to have proximal LAD occlusion s/p DES x1 to LAD complicated by 
stent thrombosis requiring balloon angioplasty, admitted to CCU 
for post STEMI monitoring.

Patient reports for the past month he has been having substernal 
burning while jogging. He visited with his PCP and scheduled ___ 
non urgent stress test. This morning around 10:30 AM patient was 
driving to work and developed excruciating ___ substernal non 
radiating pain. He was able to walk into his office and 
described the pain as worse with ambulation. He immediately had 
a friend call ___ and was brought to ___. EMS administered 
fentanyl, aspirin, nitroglycerin x4 and Zofran.

In the ED initial vitals were:  HR 82 BP: 122/62 O(2)Sat: 92

EKG: NSR HR 66 Left axis RBBB STE elevations anterolaterally

Patient was immediately taken to the cath lab where he was found 
to have proximal LAD occlusion s/p DES x1 LAD, complicated by 
stent thrombosis requiring balloon angioplasty.

On arrival to the CCU patient reports chest pain has resolved. 
He feels well and has no complaints. 

 
Past Medical History:
No cardiac history. 
BPH, kidney stones, erectile dysfunction 
 
Social History:
___
Family History:
Mother died of MI @ age ___. Brother MI and stent at age ___.
 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===========================
VS: Reviewed in metavision  
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM:
===========================
VS: 98.3F 110/60 HR86 RR18 98%RA 
GENERAL: Well developed, well nourished in NAD. 
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis 
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION LABS:
===========================
___ 12:30PM   GLUCOSE-150* UREA N-17 CREAT-1.0 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-21* ANION GAP-15
___ 12:30PM   CALCIUM-8.3* PHOSPHATE-3.2 MAGNESIUM-2.0
___ 11:29AM   ___ PO2-49* PCO2-38 PH-7.42 TOTAL CO2-25 
BASE XS-0
___ 11:29AM   GLUCOSE-137* LACTATE-1.9 NA+-137 K+-6.5* 
CL--106
___ 11:29AM   HGB-14.2 calcHCT-43 O2 SAT-82 CARBOXYHB-3 MET 
HGB-0
___ 11:29AM   freeCa-1.02*
___ 11:13AM   UREA N-17 CREAT-1.1
___ 11:13AM   estGFR-Using this
___ 11:13AM   LIPASE-42
___ 11:13AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:13AM   WBC-10.6* RBC-4.48* HGB-13.6* HCT-41.7 MCV-93 
MCH-30.4 MCHC-32.6 RDW-15.2 RDWSD-51.7*
___ 11:13AM   ___ PTT-23.2* ___
___ 11:13AM   PLT COUNT-322
___ 11:13AM   ___

IMAGING
======================
CATH ___
Interventional Details
Emergency coronary angiography demonstrated reocclusion of the 
previously placed proximal LAD stent with extensive thrombus. 
After administering additional IV heparin and tirofiban, the LAD 
lesion was crossed with a .014 Prowater wire. Thrombectomy was 
attempted but could not be passed. We then redilated the LAD 
stent with a 3.5 mm balloon, re-establishing antegrade flow. 
IVUS was then performed which demonstrated underexpansion of the 
ostial portion of the stent. We then redilated the LAD ostium
with a 4.0 mm and a 4.5 mm NC balloon up to 20 atm. Repeat IVUS 
then demonstrated good stent expansion without any residual 
dissection. The final angiographic result demonstrated 0% 
residual stenosis, normal flow, and no residual dissection. The 
previously noted 60% long mid LAD lesion did not appear flow 
limiting and was not treated.
Impressions:
Successful emergency re-PTCA of proximal LAD stent thrombosis, 
treated with successful IVUS-guided repeat PTCA

___ CXR
There is no evidence of pneumonia, pulmonary edema, pleural 
effusion or 
pneumothorax. 
  
___ TTE
There is moderate regional left ventricular systolic dysfunction 
with severe hypokinesis to akinesis of the anteroseptal, 
anterior, and distal septal and lateral walls, and apex. The 
apex appears trabeculated. A left ventricular thrombus is not 
seen, but cannot exclude a small thrombus in the apex. The 
remaining segments contract normally (LVEF = 40 %). Overall left 
ventricular systolic function is mildly depressed. Right 
ventricular chamber size and free wall motion are normal. Trace 
aortic regurgitation is seen. Trivial mitral regurgitation is 
seen. There is an anterior space which most likely represents a 
prominent fat pad. 

 Compared with the prior study (images reviewed) of ___, 
left ventricular systolic function is similar.  

___ CXR
Lungs are clear.  Small bilateral effusions are seen.  Heart 
size is Mildly  enlarged but unchanged.  No pneumothorax is 
seen.  Cardiomediastinal silhouette is stable. 

INTERVAL LABS
======================
___ 12:19AM BLOOD CK-MB-294* cTropnT-10.54*
___ 06:27AM BLOOD CK-MB-177* cTropnT-7.21*
___ 06:27AM BLOOD %HbA1c-5.4 eAG-108
___ 06:27AM BLOOD Triglyc-170* HDL-65 CHOL/HD-3.6 
LDLcalc-134*

DISCHARGE LABS
======================
___ 07:32AM BLOOD WBC-13.4* RBC-4.18* Hgb-12.6* Hct-38.6* 
MCV-92 MCH-30.1 MCHC-32.6 RDW-15.1 RDWSD-50.7* Plt ___
___ 07:32AM BLOOD Plt ___
___ 07:32AM BLOOD Glucose-97 UreaN-17 Creat-1.1 Na-142 
K-4.0 Cl-103 HCO3-21* AnGap-18
___ 07:32AM BLOOD Calcium-8.7 Phos-2.4* Mg-2.___ yo M with history of BPH presented with anterior STEMI found 
to have proximal LAD occlusion s/p DES x1 to LAD complicated by 
stent thrombosis requiring balloon angioplasty admitted to CCU 
for post STEMI monitoring.

ACUTE ISSUES:
=======================
#ANTERIOR STEMI
No prior cardiac history, presented with severe substernal chest 
pain of one hour, found to have STE in V3-V5. Taken to cath lab 
and found to have proximal LAD occlusion and received DES x1 to 
LAD. Immediately after the procedure he developed recurrent 
chest pain and persistent STE EKG changes, so another 
catheterization was performed, which showed in stent thrombosis 
requiring balloon angioplasty. After cath had recurrent CP 
similar to presentation in terms of location and character, and 
again associated with nausea/diaphoresis/SOB. He also developed 
hypoxia with a new O2 requirement of ___ O2/min. CXR showed 
vascular congestion supporting possibility of flash pulmonary 
edema given worsened EF from LAD infarct, and he received IV 
Lasix with good effect. No STE or PR depressions on serial EKG. 
Bedside echo ruled out pericardial effusions, free wall rupture, 
or papillary rupture without signs of MR that could explain 
flash edema. He was briefly on tirofiban and his symptoms 
improved, presumed to be due to post-MI pericarditis. A1c 5.4, 
LDL 134. Formal TTE with EF 48%, diffuse LV hypokinesis. Pt 
continued to have SOB on inspiration, likely ___ to side effect 
of ticagrelor, so ticagrelor was discontinued and he was 
re-loaded with Plavix and continued on daily plavix. He was also 
started on atorvastatin, aspirin, metroprolol and an Lisinopril.

___
Cr to peak of 1.3, Baseline Cr ~ 1.0. Likely multifactorial with 
lack of PO intake, contrast load and initiation of ACE. 
Creatinine was 1.1 on the day of discharge. 

#Leukocytosis and cough. Patient remained afebrile and with no 
consolidation on chest x-ray, but did have a cough and 
leukocytosis. He was started on five days of azithromycin (D1: 
___ for CAP. 

CHRONIC ISSUES:
================
#BPH:
-Continue tamsulosin

TRANSITIONAL ISSUES:
======================
[] NEW MEDS: metoprolol XL 50mg daily, lisinopril 5mg daily, 
Plavix 75mg daily, atorvastatin 80mg daily
[] Antibiotic course for CAP: Azithromycin through ___
[] Cardiac rehab referral
[] Consider stress testing to evaluate for significance of 
remaining CAD
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO BID 
2. TRIAzolam 0.25 mg PO QHS:PRN insomnia 
3. Aspirin 81 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth every night Disp 
#*30 Tablet Refills:*0 
2.  Azithromycin 250 mg PO Q24H Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
Duration: 8 Doses 
RX *codeine-guaifenesin [Coditussin AC] 10 mg-200 mg/5 mL ___ 
mL by mouth every 6 hours as needed for cough Refills:*0 
5.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
7.  Aspirin 81 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Tamsulosin 0.4 mg PO BID  
10.  TRIAzolam 0.25 mg PO QHS:PRN insomnia  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
==================
STEMI

Secondary diagnosis
==================
Acute kidney injury 
Community acquired pneumonia 
Flash pulmonary edema
Benign prostatic hypertrophy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You were admitted because you were having chest pain and you 
were found to be having a heart attack.

WHAT HAPPENED IN THE HOSPITAL?
-You were taken to the cath lab and had a stent placed to open 
one of the arteries in your heart that was clogged.
-You were monitored in the CCU and then on the general 
cardiology ward to make sure you didn't have any complications 
after your procedure.
-You developed a cough and were discharged on antibiotics for 
possible pneumonia.

WHAT SHOULD YOU DO AT HOME?
-You should take your new medications which include: Plavix, 
metoprolol, lisinopril and atorvastatin as prescribed. Please do 
not stop taking your aspirin or Plavix, these are very important 
medications
-Continue taking azithromycin for 4 more days after your 
discharge. The last day of antibiotics will be ___.
-Please take your home medications as you were previously. 
-Please follow up with you new cardiologist, Dr. ___ 
your PCP.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___